US04353827
14.5 g (0.050 mol) of 6-iodoisatoic acid anhydride and 6.6 g (0.058 mol) of L-proline in 50 ml of dimethyl sulphoxide are warmed to 70° for 30 minutes, the solvent is removed in a high vacuum and the oil obtained is heated at 170° for 15 minutes. The crude product is purified by chromatography on silica gel using methylene chloride and a mixture of methylene chloride and ethyl acetate for the elution. There is obtained (S)-1,2,3,11a-tetrahydro-6-iodo-5H-pyrrolo[2,1-c][1,4]benzodiazepine-5,11(10H)-dione which melts at 212°-215° after recrystallization from methanol.

reactant | 6-iodoisatoic acid anhydride | 0.050 mol, 14.5 g | IC=1C=CC=C2C1C(=O)OC(N2)=O | C8H4INO3
reactant | L-proline | 0.058 mol, 6.6 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
solvent | dimethyl sulphoxide | 50 ml | CS(=O)C | C2H6OS
product | (S)-1,2,3,11a-tetrahydro-6-iodo-5H-pyrrolo[2,1-c][1,4]benzodiazepine-5,11(10H)-dione | IC1=CC=CC2=C1C(N1[C@H](C(N2)=O)CCC1)=O | C12H11IN2O2
